US06624158B2
2-{[(3aS,4S,6R,6aR)-6-Methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]carbonyl}-N-benzylhydrazinecarbothioamide
A solution of (3aS,4S,6R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole-4-carbohydrazide (Preparation 16) (4 g, 17.2 mmol) and benzyl isothiocyanate (2.38 ml, 18 mmol) in dichloromethane (50 ml) was stirred at room temperature for 12 hours. The solvent was removed by evaporation under reduced pressure and the residue was partioned between dichloromethane (100 ml) and water (100 ml). The organic layer was separated, dried (anhydrous magnesium sulphate) and evaporated under reduced pressure to give the title compound (5.90 g) which was used without further purification.

reactant | (3aS,4S,6R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole-4-carbohydrazide | 17.2 mmol, 4 g | CO[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)NN | C9H16N2O5
reactant | benzyl isothiocyanate | 18 mmol, 2.38 ml | C(C1=CC=CC=C1)N=C=S | C8H7NS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-{[(3aS,4S,6R,6aR)-6-Methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]carbonyl}-N-benzylhydrazinecarbothioamide | 5.90 g | CO[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)NNC(NCC2=CC=CC=C2)=S | C17H23N3O5S
